US04992433
A mixture of 3.16 parts of ethyl 1-piperazinecarboxylate, 4.7 parts of 2-chloro-1-(3-chloropropoxy)-4-methoxybenzene, 3.2 parts of sodium carbonate and 67.5 parts of N,N-dimethylformamide was stirred overnight at reflux temperature. After cooling, the reaction mixture was poured into water and the product was extracted with 2,2'-oxybispropane. The extract was dried, filtered and evaporated. The residue was converted into the hydrochloride salt in 2,2'-oxybispropane. The salt was filtered off and dried, yielding 4 parts (50%) of ethyl 4-[3-(2-chloro-4-methoxyphenoxy)propyl]-1-piperazinecarboxylate monohydrochloride (int. 12).

reactant | ethyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | 2-chloro-1-(3-chloropropoxy)-4-methoxybenzene | ClC1=C(C=CC(=C1)OC)OCCCCl | C10H12Cl2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 4-[3-(2-chloro-4-methoxyphenoxy)propyl]-1-piperazinecarboxylate monohydrochloride | 50% | Cl.ClC1=C(OCCCN2CCN(CC2)C(=O)OCC)C=CC(=C1)OC | InChI=1S/C17H25ClN2O4.ClH/c1-3-23-17(21)20-10-8-19(9-11-20)7-4-12-24-16-6-5-14(22-2)13-15(16)18;/h5-6,13H,3-4,7-12H2,1-2H3;1H
